**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  Push-Pull Transformers 
* Matchcode:              WE-PPTI
* Library Type:           LTspice
* Version:                rev24a
* Created/modified by:    Ella      
* Date and Time:          2024-01-17
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************	
* Copyright(C) 2024 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************

.subckt	750315371		1  2  3  6  5  4		
.param RxLkg=669.66ohm					
.param Leakage=0.255uh					
Rlkg	1	1a	{RxLkg/2}		
L_Lkg	1	1a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	1a	2	24.873uH	Rser=25mohm	
Lpri2	2a	3	24.873uH	Rser=25mohm	
Lsec1	6	5	32.653uH	Rser=25mohm	
Lsec2	5	4	32.653uH	Rser=25mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=7.25pf					
.param Cprm2=7.25pf					
.param Rdmp1=65653.16ohm					
.param Rdmp2=65653.16ohm					
Cpri1	1	2	{Cprm1}	Rser=10mohm	
Cpri2	2	3	{Cprm2}	Rser=10mohm	
Rdmp1	1	2	{Rdmp1}		
Rdmp2	2	3	{Rdmp2}		
Rg3	1	0	20meg		
Rg7	2	0	20meg		
Rg8	3	0	20meg		
Rg11	6	0	20meg		
Rg19	5	0	20meg		
Rg20	4	0	20meg		
.ends					

.subckt	750316028		1  2  3  6  5  4		
.param RxLkg=205.06ohm					
.param Leakage=0.105uh					
Rlkg	1	1a	{RxLkg/2}		
L_Lkg	1	1a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	1a	2	22.948uH	Rser=33mohm	
Lpri2	2a	3	22.948uH	Rser=33mohm	
Lsec1	6	5	67.592uH	Rser=48mohm	
Lsec2	5	4	67.592uH	Rser=48mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=14.25pf					
.param Cprm2=14.275pf					
.param Rdmp1=44917.03ohm					
.param Rdmp2=44917.03ohm					
Cpri1	1	2	{Cprm1}	Rser=10mohm	
Cpri2	2	3	{Cprm2}	Rser=10mohm	
Rdmp1	1	2	{Rdmp1}		
Rdmp2	2	3	{Rdmp2}		
Rg3	1	0	20meg		
Rg7	2	0	20meg		
Rg8	3	0	20meg		
Rg11	6	0	20meg		
Rg19	5	0	20meg		
Rg20	4	0	20meg		
.ends					

.subckt	750316029		1  2  3  6  5  4		
.param RxLkg=244.01ohm					
.param Leakage=0.157uh					
Rlkg	1	1a	{RxLkg/2}		
L_Lkg	1	1a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	1a	2	22.922uH	Rser=33mohm	
Lpri2	2a	3	22.922uH	Rser=33mohm	
Lsec1	6	5	105.612uH	Rser=59mohm	
Lsec2	5	4	105.612uH	Rser=59mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=22.5pf					
.param Cprm2=23pf					
.param Rdmp1=35746.08ohm					
.param Rdmp2=35746.08ohm					
Cpri1	1	2	{Cprm1}	Rser=10mohm	
Cpri2	2	3	{Cprm2}	Rser=10mohm	
Rdmp1	1	2	{Rdmp1}		
Rdmp2	2	3	{Rdmp2}		
Rg3	1	0	20meg		
Rg7	2	0	20meg		
Rg8	3	0	20meg		
Rg11	6	0	20meg		
Rg19	5	0	20meg		
Rg20	4	0	20meg		
.ends					

.subckt	750316030		1  2  3  6  5  4		
.param RxLkg=539.82ohm					
.param Leakage=0.187uh					
Rlkg	1	1a	{RxLkg/2}		
L_Lkg	1	1a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	1a	2	29.907uH	Rser=34mohm	
Lpri2	2a	3	29.907uH	Rser=34mohm	
Lsec1	6	5	16.875uH	Rser=28mohm	
Lsec2	5	4	16.875uH	Rser=28mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=5pf					
.param Cprm2=5pf					
.param Rdmp1=86602.59ohm					
.param Rdmp2=86602.59ohm					
Cpri1	1	2	{Cprm1}	Rser=10mohm	
Cpri2	2	3	{Cprm2}	Rser=10mohm	
Rdmp1	1	2	{Rdmp1}		
Rdmp2	2	3	{Rdmp2}		
Rg3	1	0	20meg		
Rg7	2	0	20meg		
Rg8	3	0	20meg		
Rg11	6	0	20meg		
Rg19	5	0	20meg		
Rg20	4	0	20meg		
.ends					

.subckt	750316818		1  2  3  6  5  4		
.param RxLkg=117.44ohm					
.param Leakage=0.2uh					
Rlkg	1	1a	{RxLkg/2}		
L_Lkg	1	1a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	1a	2	24.9uH	Rser=39mohm	
Lpri2	2a	3	24.9uH	Rser=39mohm	
Lsec1	6	5	306.25uH	Rser=220mohm	
Lsec2	5	4	306.25uH	Rser=220mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=145pf					
.param Cprm2=145pf					
.param Rdmp1=14680.51ohm					
.param Rdmp2=14680.51ohm					
Cpri1	1	2	{Cprm1}	Rser=10mohm	
Cpri2	2	3	{Cprm2}	Rser=10mohm	
Rdmp1	1	2	{Rdmp1}		
Rdmp2	2	3	{Rdmp2}		
Rg3	1	0	20meg		
Rg7	2	0	20meg		
Rg8	3	0	20meg		
Rg11	6	0	20meg		
Rg19	5	0	20meg		
Rg20	4	0	20meg		
.ends					

.subckt	750316819		1  2  3  6  5  4		
.param RxLkg=158.11ohm					
.param Leakage=0.2uh					
Rlkg	1	1a	{RxLkg/2}		
L_Lkg	1	1a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	1a	2	24.9uH	Rser=39mohm	
Lpri2	2a	3	24.9uH	Rser=39mohm	
Lsec1	6	5	206.641uH	Rser=175mohm	
Lsec2	5	4	206.641uH	Rser=175mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=80pf					
.param Cprm2=80pf					
.param Rdmp1=19764.23ohm					
.param Rdmp2=19764.23ohm					
Cpri1	1	2	{Cprm1}	Rser=10mohm	
Cpri2	2	3	{Cprm2}	Rser=10mohm	
Rdmp1	1	2	{Rdmp1}		
Rdmp2	2	3	{Rdmp2}		
Rg3	1	0	20meg		
Rg7	2	0	20meg		
Rg8	3	0	20meg		
Rg11	6	0	20meg		
Rg19	5	0	20meg		
Rg20	4	0	20meg		
.ends					

